US08314094B2
4) Synthesis of N-{[6-bromo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]methyl}-4-fluorobenzamide
To a stirring solution of DMF (5 mL) containing 4-(aminomethyl)-6-bromo-1-(4-methoxybenzyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (710 mg, 1.60 mmol), 4-fluorobenzoic acid (246 mg, 1.76 mmol), hydroxybenzotriazole monohydrate (245 mg, 1.60 mmol) and triethylamine (0.22 mL, 1.6 mmol) at 0° C., 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (368 mg, 1.9 mmol) was added little by little thereto. After the reaction solution was stirred overnight at room temperature, water was slowly added thereto under stirring. After a solid began to precipitate, further excess water was added thereto, and the mixture was stirred at room temperature for 2 hours. The solid was collected by filtration and washed with water and then dried under reduced pressure, whereby the objective compound (815 mg, 90%) was obtained as a white solid.

reactant | 4-(aminomethyl)-6-bromo-1-(4-methoxybenzyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | 1.60 mmol, 710 mg | NCC1(NC(N(C2=CC=C(C=C12)Br)CC1=CC=C(C=C1)OC)=O)C(F)(F)F | C18H17BrF3N3O2
reactant | 4-fluorobenzoic acid | 1.76 mmol, 246 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | hydroxybenzotriazole monohydrate | 1.60 mmol, 245 mg | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 1.6 mmol, 0.22 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.9 mmol, 368 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-{[6-bromo-1-(4-methoxybenzyl)-2-oxo-4-(trifluoromethyl)-1,2,3,4-tetrahydroquinazolin-4-yl]methyl}-4-fluorobenzamide | BrC=1C=C2C(NC(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)(C(F)(F)F)CNC(C1=CC=C(C=C1)F)=O | C25H20BrF4N3O3
